US09406977B2
Example 1 was prepared by combining 2,2-dimethyl-1,3-dioxolane (200 g, 1.96 moles, Fluka Chemie GmbH, Deisenhofen, Germany) and Luperox 575 (10 g, 0.041 moles) (Arkema, Oakville, Ontario, Canada) were combined in a 600 mL Parr reactor (Parr Instrument Co., Moline, Ill.). The reactor was warmed to 75° C. and hexafluoropropene (300 g, 2.0 moles) (MDA Manufacturing Inc., Decatur, Ala.) was added at a constant rate. The reactor was allowed to stir at this temperature for 16 h. The crude reaction material was distilled using a ten plate Oldershaw column to afford 4-(1,1,2,3,3,3-hexafluoropropyl)-1,3-dioxolane (boiling point (b.p.) of 144° C.).

reactant | 2,2-dimethyl-1,3-dioxolane | 1.96 moles, 200 g | CC1(OCCO1)C | C5H10O2
reactant | hexafluoropropene | 2.0 moles, 300 g | FC(C(=C(F)F)F)(F)F | C3F6
product | 4-(1,1,2,3,3,3-hexafluoropropyl)-1,3-dioxolane | FC(C(C(F)(F)F)F)(F)C1OCOC1 | C6H6F6O2
